US05622954
Under a nitrogen atmosphere, a solution of 2.0 grams (0.006 mole) of 2-amino-4-chloro-6-methyl-5-[3-(2,5-dichlorophenyl)-2-butenyl]pyrimidine, 0.4 gram (0.006 mole) of sodium azide, and 0.3 gram (0.006 mole) of ammonium chloride in 15 mL of dimethyl sulfoxide is stirred at ambient temperature for about 18 hours. After this time the reaction mixture is poured into ice-water. The mixture is stirred until the ice melted, and the resultant solid is collected by filtration. The solid is dissolved in methylene chloride, and the solution is dried with magnesium sulfate. The mixture is filtered, and the filtrate is concentrated under reduced pressure to a residual solid. The solid is recrystallized from methylene chloride/petroleum ether, yielding 1.8 grams of 5-amino-7-methyl-8-[3-(2,5-dichlorophenyl)-2-butenyl]tetrazolo[1,5-c]pyrimidine. The NMR spectrum is consistent with the proposed structure.

reactant | 2-amino-4-chloro-6-methyl-5-[3-(2,5-dichlorophenyl)-2-butenyl]pyrimidine | 0.006 mole, 2.0 grams | NC1=NC(=C(C(=N1)Cl)CC=C(C)C1=C(C=CC(=C1)Cl)Cl)C | C15H14Cl3N3
reactant | sodium azide | 0.006 mole, 0.4 gram | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.006 mole, 0.3 gram | [Cl-].[NH4+]
solvent | dimethyl sulfoxide | 15 mL | CS(=O)C | C2H6OS
product | 5-amino-7-methyl-8-[3-(2,5-dichlorophenyl)-2-butenyl]tetrazolo[1,5-c]pyrimidine | 1.8 grams | NC1=NC(=C(C=2N1N=NN2)CC=C(C)C2=C(C=CC(=C2)Cl)Cl)C | C15H14Cl2N6
